US06635657B1
A. N-(5-Chloropyridin-2-yl)-4-methoxycarbonyl-2-nitrobenzamide
Using a similar procedure to that described in Example 1-A, 4-methoxycarbonyl-2-nitrobenzoic acid (1.87 g, 8.31 mmol) and 2-amino-5-chloropyridine (1.16 g, 9.14 mmol) afforded 2.05 g (74%) of the title compound.

reactant | 4-methoxycarbonyl-2-nitrobenzoic acid | 8.31 mmol, 1.87 g | COC(=O)C1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C9H7NO6
reactant | 2-amino-5-chloropyridine | 9.14 mmol, 1.16 g | NC1=NC=C(C=C1)Cl | C5H5ClN2
product | N-(5-Chloropyridin-2-yl)-4-methoxycarbonyl-2-nitrobenzamide | 2.05 g, 74% | ClC=1C=CC(=NC1)NC(C1=C(C=C(C=C1)C(=O)OC)[N+](=O)[O-])=O | C14H10ClN3O5
